US04010202
20 Parts of 2-amino-5,6-dibenzyloxy-3,4-dihydro-1(2H)-naphthalenone hydrochloride is subjected to a procedure similar to that described in Reference Example 11 and the resultant 5,6-dibenzyloxy-2-trifluoroacetamido-3,4-dihydro-1(2H)-naphthalenone is reacted with 60 parts of 3-phenylpropanol p-toluenesulfonic acid ester under the same conditions as set forth in Reference Example 11. The reaction product is then hydrolyzed in a 47 % aqueous solution of hydrogen bromide to obtain 3 parts of 5,6-dihydroxy-2-(3-phenylpropylamino)-3,4-dihydro-1(2H)-naphthalenone hydrobromide melting at 215°-217° C (decomposition).

reactant | 2-amino-5,6-dibenzyloxy-3,4-dihydro-1(2H)-naphthalenone hydrochloride | Cl.NC1C(C2=CC=C(C(=C2CC1)OCC1=CC=CC=C1)OCC1=CC=CC=C1)=O
reactant | 5,6-dibenzyloxy-2-trifluoroacetamido-3,4-dihydro-1(2H)-naphthalenone | C(C1=CC=CC=C1)OC1=C2CCC(C(C2=CC=C1OCC1=CC=CC=C1)=O)NC(C(F)(F)F)=O | C26H22F3NO4
reactant | hydrogen bromide | Br | BrH
product | 5,6-dihydroxy-2-(3-phenylpropylamino)-3,4-dihydro-1(2H)-naphthalenone hydrobromide | Br.OC1=C2CCC(C(C2=CC=C1O)=O)NCCCC1=CC=CC=C1 | InChI=1S/C19H21NO3.BrH/c21-17-11-9-14-15(19(17)23)8-10-16(18(14)22)20-12-4-7-13-5-2-1-3-6-13;/h1-3,5-6,9,11,16,20-21,23H,4,7-8,10,12H2;1H
